US07504508B2
Ethyl [(5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}isoxazol-3-yl)oxy]acetate was prepared following the procedure for N-(4-chlorophenyl)-N-{(2S,4R)-1-[(1-isopropyl-1H-pyrazol-4-yl)carbonyl]-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl}acetamide substituting ethyl {[5-(chlorocarbonyl)isoxazol-3-yl]oxy}acetate for 1-isopropyl-1H-pyrazole-4-carbonyl chloride. (Ethyl {[15-chlorocarbonyl)isoxazol-3-yl]oxy}acetate was prepared in 4 steps from methyl 3-hydroxy 5-isoxazole carboxylate. Methyl 3-hydroxy 5-isoxazole carboxylate (1.00 g, 6.95 mmol) was alkylated using ethyl bromoacetate (0.850 mL, 7.64 mmol) in presence of potassium carbonate (1.05 g, 7.64 mmol) and catalytic potassium iodide in DMF (3.00 mL) at room temperature overnight. Water was added to the reaction mixture and extracted with ethyl acetate. The organics were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to yield the desired methyl 3-(2-ethoxy-2-oxoethoxy)isoxazole-5-carboxylate (60%). (Ref: WO 03/063800 PCT/US03/03224). Methyl 3-(2-ethoxy-2-oxoethoxy)isoxazole-5-carboxylate was further treated with aqueous 5% sodium hydroxide in methanol to yield 3-(carboxymethoxy)isoxazole-5-carboxylic acid (86%). This diacid (0.700 g, 3.76 mmol) was selectively esterified in the presence of catalytic p-toluenesulfonic acid monohydrate (100 mg) in ethanol at room temperature. Water was added to the reaction and the mixture was extracted with ethyl acetate. The organics were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give the desired 3-(2-ethoxy-2-oxoethoxy)isoxazole-5-carboxylic acid (90%). 3-(2-Ethoxy-2-oxoethoxy)isoxazole-5-carboxylic acid was treated with oxalyl chloride and catalytic DMF in dichloromethane to yield the desired ethyl {[5-(chlorocarbonyl)isoxazol-3-yl]oxy}acetate). Ethyl [(5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}isoxazol-3-yl)oxy]acetate was treated with a solution of lithium hydroxide monohydrate (aq) in methanol at room temperature overnight to afford [(5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}isoxazol-3-yl)oxy]acetic acid in 60% yield.

reactant | Methyl 3-(2-ethoxy-2-oxoethoxy)isoxazole-5-carboxylate | C(C)OC(COC1=NOC(=C1)C(=O)OC)=O | C9H11NO6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(carboxymethoxy)isoxazole-5-carboxylic acid | 86% | C(=O)(O)COC1=NOC(=C1)C(=O)O | C6H5NO6
